US06573293B2
3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic Acid phenylamide
2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid phenylamide (110 mg, 0.4 mmol) was condensed with 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (100 mg) to give 50 mg (24%) of the title compound as a yellow solid.

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid phenylamide | 0.4 mmol, 110 mg | C1(=CC=CC=C1)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H12N2O3S
reactant | 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 100 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
product | 3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic Acid phenylamide | 50 mg, 24% | C1(=CC=CC=C1)NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC(=C(C1C)C(=O)N1CCN(CC1)C)C | C27H29N5O4S
